US09447106B2
Step 5: 7-(Aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of 7-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (15 mg, 0.043 mmol) in 2 mL of EtOH was added 1 mL of DMSO, 0.5 mL of NaOH (5N) and 0.5 mL of H2O2 (30% aqueous solution). After stirring at 60° C. for 2 hr, the mixture was concentrated to remove EtOH. The residue was partitioned between water (30 mL) and EA (20 mL). The organic phase was concentrated and purified by pre-HPLC eluting from 20% to 40% CH3CN in 0.1% TFA in H2O. Fractions containing the desired product were combined and lyophilized overnight to give the product as a TFA salt (10 mg, 64%). 1H NMR (400 MHz, DMSO-d6) δ 8.07 (br s, 3H), 7.62 (d, J=8.8 Hz, 2H), 7.43-7.35 (m, 2H), 7.25 (t, J=7.6 Hz, 1H), 7.15-7.12 (m, 4H), 6.77 (br s, 1H), 4.38-4.30 (m, 1H), 3.40-3.20 (m, 4H), 2.16-2.06 (m, 1H), 2.00-1.80 (m, 1H). MS (ESI) m/e [M+1]+364.0.

reactant | 7-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.043 mmol, 15 mg | NCC1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H19N5O
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 7-(Aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 10 mg, 64% | NCC1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H21N5O2
